### PR TITLE
small generalizations and extensions in poly

### PR DESCRIPTION
**Pull request by CohenCyril**

### CODE REVIEW

File: mathcomp/algebra/poly.v [hunk 1]
```diff
@@ -2216,6 +2232,38 @@ elim/big_rec2: _ => [|i d p /nzF nzFi IHp]; first by rewrite size_poly1.
...
 
+Lemma size_prod_seq (I : eqType)  (s : seq I) (F : I -> {poly R}) :
+    (forall i, i \in s -> F i != 0) ->
+  size (\prod_(i <- s) F i) = ((\sum_(i <- s) size (F i)).+1 - size s)%N.
+Proof.
+move=> nzF; rewrite big_tnth size_prod; last by move=> i; rewrite nzF ?mem_tnth.
+by rewrite cardT /= size_enum_ord [in RHS]big_tnth.
+Qed.
+
+Lemma size_prod_eq1 (I : finType) (P : pred I) (F : I -> {poly R}) :
```
Comment (thery) [inline mathcomp/algebra/poly.v]: It seems reasonable to also add the mul version
Lemma size_mul_eq1 p q :
  (size (p * q) == 1%N) = ((size p == 1%N) && (size q == 1%N)).

Comment (thery) [inline mathcomp/algebra/poly.v]: Why restrict this to finType and not prove the general statement 

Lemma size_prod_eq1 
   (I : eqType) (s : seq I) (P : pred I)  (F : I -> {poly R}) :
  (size (\prod_(i <- s | P i) F i) == 1%N) = 
  (all (fun i => size (F i) == 1%N) [seq x <- s | P x]).

File: mathcomp/algebra/poly.v [hunk 2]
```diff
@@ -2216,6 +2232,38 @@ elim/big_rec2: _ => [|i d p /nzF nzFi IHp]; first by rewrite size_poly1.
...
+  by apply/existsP; exists i; rewrite Pi Fi_eq0 size_poly0.
+rewrite size_prod // -sum1_card subSn; last first.
+  by rewrite leq_sum // => i Pi; rewrite size_poly_gt0 F_neq0.
+rewrite (eq_bigr (fun i => (size (F i)).-1 + 1))%N; last first.
+  by move=> i Pi; rewrite addn1 -polySpred ?F_neq0.
+rewrite big_split /= addnK -big_andE /=.
+by elim/big_ind2: _ => // [[] [|n] [] [|m]|i Pi]; rewrite -?polySpred ?F_neq0.
+Qed.
+
+Lemma size_prod_seq_eq1 (I : choiceType) (s : seq I) (F : I -> {poly R}) :
```
Comment (thery) [inline mathcomp/algebra/poly.v]: should be eqType

File: mathcomp/algebra/poly.v [hunk 3]
```diff
@@ -4,7 +4,7 @@ Require Import mathcomp.ssreflect.ssreflect.
 From mathcomp
 Require Import ssrbool ssrfun eqtype ssrnat seq div choice fintype.
 From mathcomp
-Require Import bigop ssralg binomial.
+Require Import bigop ssralg binomial tuple.
```
Comment (thery) [inline mathcomp/algebra/poly.v]: is this new import comes only because you are using big_tnth?

File: mathcomp/algebra/ssralg.v [hunk 4]
```diff
@@ -1171,6 +1171,9 @@ Proof. by rewrite exprAC sqrrN !expr1n. Qed.
 Lemma signrMK n : @involutive R ( *%R ((-1) ^+ n)).
 Proof. by move=> x; rewrite mulrA -expr2 sqrr_sign mul1r. Qed.
 
+Lemma lastr_eq0 (s : seq R) x : x != 0 -> (last x s == 0) = (last 1 s == 0).
+Proof. by elim: s => [|y s ihs] /negPf // ->; rewrite oner_eq0. Qed.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v]: cool

File: mathcomp/algebra/ssralg.v [hunk 5]
```diff
@@ -1171,6 +1171,9 @@ Proof. by rewrite exprAC sqrrN !expr1n. Qed.
 Lemma signrMK n : @involutive R ( *%R ((-1) ^+ n)).
 Proof. by move=> x; rewrite mulrA -expr2 sqrr_sign mul1r. Qed.
 
+Lemma lastr_eq0 (s : seq R) x : x != 0 -> (last x s == 0) = (last 1 s == 0).
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v]: I am not sure it is desirable, as `1` is canonical for a `R : ringType`... However, maybe the theorem you mention has its place in `seq.v`

File: mathcomp/algebra/poly.v (hunk 3 above)
Comment (CohenCyril) [reply mathcomp/algebra/poly.v]: yes

File: mathcomp/algebra/poly.v [hunk 6]
```diff
@@ -2216,6 +2229,41 @@ elim/big_rec2: _ => [|i d p /nzF nzFi IHp]; first by rewrite size_poly1.
...
+Lemma size_prod_seq_eq1 (I : eqType) (s : seq I) (F : I -> {poly R}) :
+  (size (\prod_(i <- s) F i) == 1%N) = (all [pred i | size (F i) == 1%N] s).
+Proof.
+by rewrite big_tnth size_prod_eq1 -big_all [in RHS]big_tnth big_andE.
+Qed.
+
+Lemma size_mul_eq1 p q :
+  (size (p * q) == 1%N) = ((size p == 1%N) && (size q == 1%N)).
+Proof.
+by have := size_prod_seq_eq1 [:: p; q] id; rewrite unlock /= mulr1 andbT.
```
Comment (thery) [inline mathcomp/algebra/poly.v]: Kind of weird you would expect size_mul_eq1 to help proving the summation theorem not the other way around.

File: mathcomp/algebra/poly.v (hunk 1 above)
Comment (thery) [reply mathcomp/algebra/poly.v]: Could we have just one theorem?

File: mathcomp/algebra/poly.v (hunk 6 above)
Comment (CohenCyril) [reply mathcomp/algebra/poly.v]: I know, but since the proof is not done by induction... (maybe it would be shorter? I did not try)

Comment (thery) [reply mathcomp/algebra/poly.v]: Lemma size_mul_eq1 p q :
  (size (p * q) == 1%N) = ((size p == 1%N) && (size q == 1%N)).
Proof.
case: (p =P 0) => [->|/eqP pNZ]; first by rewrite mul0r size_poly0.
case: (q =P 0) => [->|/eqP qNZ]; first by rewrite mulr0 size_poly0 andbF.
rewrite size_mul //.
by move: pNZ qNZ; rewrite -!size_poly_gt0; (do 2 case: size) => //= n [|[|]].
Qed.

Lemma size_prod_seq_eq1 (I : eqType) (s : seq I) (P : pred I) (F : I -> {poly R}) :
  (size (\prod_(i <- s | P i) F i) == 1%N) = (all [pred i | P i ==> (size (F i) == 1%N)] s).
Proof.
elim: s => [|a s IH /=]; first by rewrite big_nil size_poly1.
rewrite big_cons; case: (P a) => //=.
by rewrite size_mul_eq1 IH.
Qed.

but maybe size_prod_seq_eq1 should be expressed as a reflect

File: mathcomp/algebra/ssralg.v (hunk 5 above)
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v]: I added your last_eq to seq (for an eqType)
